US04477662
N,S-Diacetyl β-mercaptoethylamine, (805 mg) in dichloromethane (16 ml) was treated with N-methylmorpholine (3.3 ml). The reaction mixture was cooled to -40° and treated with phosgene (8.7 ml, 12.5% solution in toluene, d. 0.91; 990 mg COCl2). After warming to room temperature tetramethylguanidinium azide (1.0 g) in dichloromethane (10 ml) was added. After stirring for 15 min. the reaction mixture was washed with water (2×20 ml), dried (MgSO4) and evaporated in vacuo. Toluene was added to the residue and evaporated in vacuo to remove residual N-methylmorpholine. The crude product was chromatographed on silica gel (230-400 mesh ASTM, 2.5×12 cm column) eluting with ethyl acetate to give 2-(5-methyltetrazol-1-yl)ethyl thioacetate (767 mg), λmax. (CH2Cl2) 1 795, 1 530, 1 410, 1 360, 1 135, 1 110, 1 080 and 940 cm-1., δ(CDCl3) 2.30 (3H,s), 2.68 (3H,s), 3.40 (2H, t, J ca 7.5 Hz), 4.54 (2H, t, J ca 7.5 Hz). 2-(5-methyltetrazol-1-yl)ethyl thioacetate (100 mg) was suspended in 0.1M aqueous NaOH (11 ml) and the mixture was stirred vigourously under argon at room temperature. After ca 15 min. the oil seemed to have dissolved. After 30 min. the solution was neutralised to pH 7 by addition of dilute HCl. The solution was then extracted with ethyl acetate (2×20 ml) and the extract dried (MgSO4) and evaporated in vacuo. Toluene (20 ml) was added and evaporated in vacuo. The residue was taken up in dichloromethane (20 ml). Evaporation in vacuo left the thiol as an oil (31 mg), νmax. (CH2Cl2) 3 050, 2 950, 2 850 (broad), 1 530, 1 410, 1 320, 1 110, 1 085 cm-1., δ(CDCl3) 1.51 (1H, broad s), 2.65 (3H,s), 3.12 (2H, broad t, J ca 6 Hz), 4.51 (2H, t, J 6.5 Hz) ppm. Found M+ m/e 144.046 7; C4H8N4S requires m/e 144.046 9.

reactant | N,S-Diacetyl β-mercaptoethylamine | 805 mg | C(C)(=O)NCCSC(C)=O | C6H11NO2S
reactant | N-methylmorpholine | 3.3 ml | CN1CCOCC1 | C5H11NO
reactant | phosgene | 8.7 ml, 990 mg | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylguanidinium azide | 1.0 g | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(5-methyltetrazol-1-yl)ethyl thioacetate | 767 mg | C(C)(=S)OCCN1N=NN=C1C | C6H10N4OS
